US04640708
Stannic chloride (12.0 g) was added dropwise to a mixture of 3-hydroxy-5-(naphth-1-yl)-cyclohex-2-en-1-one (10 g) and propionyl chloride (4.25 g) in 1,2-dichloroethane (50 ml). the mixture was stirred and heated at reflux under nitrogen for 6 hr. After cooling, the mixture was poured onto ice. The dichloromethane extract was evaporated and the residue was heated at reflux with a 2M sodium hydroxide solution (20 ml) for 2 hr. After cooling, the solution was poured into an ice/hydrochloric acid mixture. The dried (Na2SO4) dichloromethane extract was concentrated and the residue was purified by column chromatography over silica gel with dichloromethane elution to give 3-hydroxy-5-(naphth-1-yl)-2-propionylcyclohex-2-en-1-one as a white solid.

reactant | 3-hydroxy-5-(naphth-1-yl)-cyclohex-2-en-1-one | 10 g | OC1=CC(CC(C1)C1=CC=CC2=CC=CC=C12)=O | C16H14O2
reactant | propionyl chloride | 4.25 g | C(CC)(=O)Cl | C3H5ClO
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 3-hydroxy-5-(naphth-1-yl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=CC=CC2=CC=CC=C12)=O)C(CC)=O | C19H18O3
